US08877760B2
A solution of 3,5-dichloropyrazine-2-carbonitrile (100 mg, 0.574 mmol), tert-butyl (1S,2R)-2-aminocyclohexylcarbamate (123 mg, 0.574 mmol) and DIEA (0.150 mL, 0.862 mmol) in NMP (3 mL) was stirred at room temperature for 20 h. HOAc (0.3 mL) was added. Then, water was added to induce precipitation. The precipitate was collected, dried on vacuum to give tert-butyl (1S,2R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)cyclohexylcarbamate (165 mg). A mixture of tert-butyl (1S,2R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)cyclohexylcarbamate (80 mg, 0.227 mmol), 3-(2H-1,2,3-triazol-2-yl)aniline (50 mg, 0.312 mmol), K2CO3 (60 mg, 0.434 mmol), BINAP (20 mg, 0.032 mmol) and Pd(OAc)2 (10 mg, 0.044 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 100 C for 20 h. Water and EtOAc were added. Organic phase was separated. The aqueous phase was extracted with EtOAc again. The combined organic phases were dried over Na2SO4, concentrated in vacuo to give a crude tert-butyl (1S,2R)-2-(6-(3-(2H-1,2,3-triazol-2-yl)phenylamino)-5-cyanopyrazin-2-ylamino)cyclohexylcarbamate (170 mg). The crude tert-butyl (1S,2R)-2-(6-(3-(2H-1,2,3-triazol-2-yl)phenylamino)-5-cyanopyrazin-2-ylamino)cyclohexylcarbamate (170 mg) was dissolved in TFA (4 mL). After being stirred at room temperature for 2 h, the mixture was concentrated in vacuo. The residue was purified by HPLC to give 3-(3-(2H-1,2,3-triazol-2-yl)phenylamino)-5-((1R,2S)-2-aminocyclohexylamino)pyrazine-2-carbonitrile (28 mg).

reactant | 3,5-dichloropyrazine-2-carbonitrile | 0.574 mmol, 100 mg | ClC=1C(=NC=C(N1)Cl)C#N | C5HCl2N3
reactant | tert-butyl (1S,2R)-2-aminocyclohexylcarbamate | 0.574 mmol, 123 mg | N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | DIEA | 0.862 mmol, 0.150 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOAc | 0.3 mL | CC(=O)O | C2H4O2
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | tert-butyl (1S,2R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)cyclohexylcarbamate | 165 mg | ClC1=C(N=CC(=N1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)C#N | C16H22ClN5O2
